US04994452
2,3,9,10,11,12-Hexahydro-1H-quino[4,3,2-ef][1,4]benzoxazepine hydrochloride
1,3,9,10,11,12-Hexahydro-2H-quino[4,3,2-ef][1,4]benzoxazepin-2-one (4.00 g) was suspended in dry tetrahydrofuran (100 ml) and 1M borane/tetrahydrofuran (16.0 ml) was added. After 2 hrs, an additional 30 ml of 1M borane/tetrahydrofuran was added, and the reaction mixture was stirred overnight. The reaction mixture was poured into 5% hydrochloric acid and stirred unit hydrogen evolution ceased. The organic layer was separated and the aqueous phase was washed once with ethyl acetate. The aqueous phase was basified with 10% sodium hydroxide solution and precipitate was collected. The precipitate was treated with methanol/ether/hydrogen chloride. Recrystallized from methanol/ether gave 2.50 g (57.5%) of product, mp 300° C. (dec).

reactant | 1,3,9,10,11,12-Hexahydro-2H-quino[4,3,2-ef][1,4]benzoxazepin-2-one | 4.00 g | N1C(COC2=C3C1=C1CCCCC1=NC3=CC=C2)=O | C15H14N2O2
reactant | borane tetrahydrofuran | 1M, 16.0 ml | B.O1CCCC1
reactant | borane tetrahydrofuran | 1M, 30 ml | B.O1CCCC1
reactant | hydrochloric acid | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2,3,9,10,11,12-Hexahydro-1H-quino[4,3,2-ef][1,4]benzoxazepine hydrochloride | 2.50 g, 57.5% | Cl.N1CCOC2=C3C1=C1CCCCC1=NC3=CC=C2 | InChI=1S/C15H16N2O.ClH/c1-2-5-11-10(4-1)15-14-12(17-11)6-3-7-13(14)18-9-8-16-15;/h3,6-7,16H,1-2,4-5,8-9H2;1H
